US04963568
4-(2',3'-Dimethoxyphenyl) 3-phenylbutyric acid (13.3 g, 44.3 mmol), from Step 4, was treated with 14 mL (216 mmol) of methanesulfonic acid and 200 mL of trifluoroacetic acid at 60° C. for 1.5 h. After cooling the reaction mixture, the trifluoroacetic acid was removed in vacuo and ice water was added to the residue. Methylene chloride was added and the layers separated. The organic layer was washed with 1N aqueous sodium hydroxide solution, water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was recrystallized three times from methanol to give 9.6 q (77% yield) of 5,6 dimethoxy 3-phenyl 1,2,3,4-tetrahydro-1-naphthalenone, m.p. 126°-128° C. 1H NMR spectrum was identical to the spectrum reported for the product of Step 6 of Method A, Example 1.

reactant | 4-(2',3'-Dimethoxyphenyl) 3-phenylbutyric acid | 44.3 mmol, 13.3 g | COC1=C(C=CC=C1OC)CC(CC(=O)O)C1=CC=CC=C1 | C18H20O4
reactant | methanesulfonic acid | 216 mmol, 14 mL | CS(=O)(=O)O | CH4O3S
solvent | trifluoroacetic acid | 200 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5,6 dimethoxy 3-phenyl 1,2,3,4-tetrahydro-1-naphthalenone | 77% yield | COC1=C2CC(CC(C2=CC=C1OC)=O)C1=CC=CC=C1 | C18H18O3
